US05063208
Methyl α-Benzylacrylate.
α-Benzylacrylic acid (1.00 g, 6.17 mmol) in methanol (20 ml) was treated with BF3.Et2O (2 ml). The mixture was heated to reflux for 14 h, cooled, and poured into saturated NaHCO3 solution. Extraction with ether followed by drying over Na2SO4 and evaporation afforded 1.03 g (95%) of a mobile oil. 1H NMR (CDCl3) δ7.17-7.35 (m,5H), 6.23 (m,1H), 5.47 (m,1H), 3.74 (s,3H), 3.63 (s,2H).

reactant | α-Benzylacrylic acid | 6.17 mmol, 1.00 g | C(C1=CC=CC=C1)C(C(=O)O)=C | C10H10O2
reactant | BF3.Et2O | 2 ml | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | Methyl α-Benzylacrylate | 1.03 g, 95% | C(C1=CC=CC=C1)C(C(=O)OC)=C | C11H12O2
